US04710573
4-(5-Fluoro-1-phenyl-1H-indazol-3-yl)piperidine-1-carbonitrile
To a stirred mixture of cyanogen bromide (4.05 g, 0.038 moles) and potassium carbonate (6.2 g, 0.045 moles) in dimethylsulfoxide (75 ml) was added dropwise a solution of 5-fluoro-1-phenyl-3-(1-methyl-4-piperidinyl)-1H-indazole (11.0 g, 0.036 moles) free base of Example 111(b) in hot dimethylsulfoxide (75 ml). The reaction was stirred at ambient temperature for 28 hours and then poured into water. The product was extracted (dichloromethane), dried (MgSO4) and concentrated to yield 10.8 g of an oil which crystallized upon standing. The product was recrystallized twice from isopropyl alcohol-ether and once from isopropyl alcohol which yielded 3.8 g (33%) of the 4-(5-fluoro-1-phenyl-1H-indazol-3-yl)piperidine-1-carbonitrile, m.p. 137°-139°.

reactant | cyanogen bromide | 0.038 moles, 4.05 g | N#CBr | CBrN
reactant | potassium carbonate | 0.045 moles, 6.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-fluoro-1-phenyl-3-(1-methyl-4-piperidinyl)-1H-indazole | 0.036 moles, 11.0 g | FC=1C=C2C(=NN(C2=CC1)C1=CC=CC=C1)C1CCN(CC1)C | C19H20FN3
reactant | water | O | H2O
solvent | dimethylsulfoxide | 75 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 75 ml | CS(=O)C | C2H6OS
product | 4-(5-Fluoro-1-phenyl-1H-indazol-3-yl)piperidine-1-carbonitrile | 10.8 g | FC=1C=C2C(=NN(C2=CC1)C1=CC=CC=C1)C1CCN(CC1)C#N | C19H17FN4
